US04775671
A mixture of 8.98 g (24.8 mmol) of (S)-8-bromo-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylic acid and 5.62 g (33.7 mmol) of 1,1'-carbonyldiimidazole in 40 ml of N,N-dimethylformamide is stirred at room temperature for 25 minutes and at 55° for 1.5 hours. The mixture is then poured into 90 ml of water, the product is filtered off under suction after 30 minutes, rinsed with water and dried at 80°-90° in a high vacuum. There is obtained 1-[[(S)-8-bromo-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-1-yl]carbonyl]imidazole of melting point 215°-217°.

reactant | (S)-8-bromo-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylic acid | 24.8 mmol, 8.98 g | BrC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C(=O)O)CCC1)=O | C15H12BrN3O3
reactant | 1,1'-carbonyldiimidazole | 33.7 mmol, 5.62 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | water | 90 ml | O | H2O
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 1-[[(S)-8-bromo-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-1-yl]carbonyl]imidazole | BrC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C(=O)N3C=NC=C3)CCC1)=O | C18H14BrN5O2
